US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (500 mg, 1.58 mmol) in DMSO (23 ml) was added 2,2,2-trifluoroethan-1-amine (188 mg, 1.90 mmol) and DIEA (407 mg, 3.15 mmol,) with stirring, and the resulting mixture was allowed to react for 4 days at 110° C. in an oil bath. The reaction mixture was diluted with water (80 ml), extracted with dichloromethane (4×15 ml), dried over anhydrous sodium sulfate, and concentrated in vacuo to give the residue, which was purified via silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford methyl 2-(4-fluorophenyl)-3-[(2,2,2-trifluoroethyl)amino]quinoxaline-6-carboxylate as a yellow solid (400 mg, 67%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 1.58 mmol, 500 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 2,2,2-trifluoroethan-1-amine | 1.90 mmol, 188 mg | FC(CN)(F)F | C2H4F3N
reactant | DIEA | 3.15 mmol, 407 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 23 ml | CS(=O)C | C2H6OS
solvent | water | 80 ml | O | H2O
product | methyl 2-(4-fluorophenyl)-3-[(2,2,2-trifluoroethyl)amino]quinoxaline-6-carboxylate | 400 mg, 67% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1NCC(F)(F)F)C(=O)OC | C18H13F4N3O2
